US08686022B2
5-tert-butyl-2-methoxy-3-trimethylsilanyloxymethyl-phenylamine
3.03 g (3-amino-5-tert-butyl-2-methoxy-phenyl)-methanol and 2.4 g imidazole are dissolved in 20 ml of tetrahydrofuran and 2.75 ml trimethylsilyl chloride are added dropwise thereto. The mixture is stirred for 2 hours at ambient temperature, the solvents are eliminated in vacuo and the residue is divided between 10% aqueous potassium carbonate solution and ethyl acetate. The aqueous phase is extracted with ethyl acetate and the combined organic phases are washed with saturated sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 95:5 to 50:50).

reactant | (3-amino-5-tert-butyl-2-methoxy-phenyl)-methanol | 3.03 g | NC=1C(=C(C=C(C1)C(C)(C)C)CO)OC | C12H19NO2
reactant | imidazole | 2.4 g | N1C=NC=C1 | C3H4N2
reactant | trimethylsilyl chloride | 2.75 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-tert-butyl-2-methoxy-3-trimethylsilanyloxymethyl-phenylamine | C(C)(C)(C)C=1C=C(C(=C(C1)N)OC)CO[Si](C)(C)C | C15H27NO2Si
